US04564386
To a solution of N,N-dimethyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide (1.5 g) and triethylamine (0.65 g) in tetrahydrofuran (40 ml), acetyl chloride (0.51 g) was added, and the resultant mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated and solidified with water. The solidified product was recrystallized from a mixture of ethanol and toluene to give 1.29 g of N,N-dimethyl-3-methyl-4-(N-acetyl-N-trifluoromethanesulfonylamino)benzenesulfonamide (Compound No. 21). M.P., 148°-148.5° C.

reactant | N,N-dimethyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide | 1.5 g | CN(S(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C(F)(F)F)C)C | C10H13F3N2O4S2
reactant | triethylamine | 0.65 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.51 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-3-methyl-4-(N-acetyl-N-trifluoromethanesulfonylamino)benzenesulfonamide | 1.29 g | CN(S(=O)(=O)C1=CC(=C(C=C1)N(S(=O)(=O)C(F)(F)F)C(C)=O)C)C | C12H15F3N2O5S2
